US04719223
Fifty grams (0.39 mole) of 2,6-difluoroaniline was treated with 71.0 g (0.39 mole) of N-bromosuccinimide in 250 ml of dimethylformamide by the procedure of Mitchell, Lai and Williams, J. Org. Chem., 44, 4733 (1979) to give a total yield of 50.2 g (62%) of 4-bromo-2,6-difluoroaniline, m.p.: 64°-66° C.

reactant | 2,6-difluoroaniline | 0.39 mole, Fifty grams | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | N-bromosuccinimide | 0.39 mole, 71.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 4-bromo-2,6-difluoroaniline | yield of 50.2 g, 62% | BrC1=CC(=C(N)C(=C1)F)F | C6H4BrF2N
